US07202363B2
tert-butyl 4-(4-aminofuro[3,2-c]pyridin-3-yl)-2-methoxyphenylcarbamate
A mixture of 3-bromofuro[3,2-c]pyridin-4-amine (0.443 g, 2.1 mmol) in 1,2-dimethoxyethane (16 mL) and water (8 mL) was treated with tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (0.872 g, 2.5 mmol,), sodium carbonate (0.749 g, 7.1 mmol) and tetrakis triphenylphosphine palladium (0) (0.144 g, 0.12 mmol) at 80° C. for 18 hours. The organic solvent was removed in vacuo and the aqueous mixture was extracted with ethyl acetate (3×10 mL). The combined organic phases were dried over anhydrous magnesium sulfate and the solvent was removed in vacuo. The residue was purified by flash column chromatography on silica gel using heptane/ethyl acetate (4:1) followed by ethyl acetate as an eluents to give the title compound (0.734 g, 85%) as a tan solid. 1H NMR (DMSO-d6, 400 MHz) δ 8.07 (s, 1H), 7.96 (s, 1H), 7.87 (d, 1H), 7.84 (d, 1H), 7.14 (d, 1H), 7.05 (dd, 1H), 6.94 (d, 1H), 5.55–5.62 (bs, 2H), 3.87 (s, 3H), 1.48 (s, 9H); RP-HPLC (Conditions f) Rt 12.13 min.; MS: MH+ 356.

reactant | 3-bromofuro[3,2-c]pyridin-4-amine | 2.1 mmol, 0.443 g | BrC1=COC2=C1C(=NC=C2)N | C7H5BrN2O
reactant | tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 2.5 mmol, 0.872 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C18H28BNO5
reactant | sodium carbonate | 7.1 mmol, 0.749 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 16 mL | COCCOC | C4H10O2
solvent | water | 8 mL | O | H2O
product | tert-butyl 4-(4-aminofuro[3,2-c]pyridin-3-yl)-2-methoxyphenylcarbamate | 0.734 g, 85% | NC1=NC=CC2=C1C(=CO2)C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)OC | C19H21N3O4
